US08835494B2
Preparation of 1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid 2-acetylamino-1-(acetylaminomethyl)-ethyl ester (C3)
1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid (0.30 g, 0.92 mmol) was dissolved in dry DCM (30 mL); two drops of DMF and oxalyl chloride (78 uL, 0.92 mmol) were added; and the reaction mixture was stirred at r.t. under nitrogen atmosphere for 30 minutes. Additional oxalyl chloride (39 uL, 0.46 mmol) was added and the reaction was stirred for 15 minutes. This solution was added dropwise to a solution of N-(3-acetylamino-2-hydroxypropyl)acetamide (synthesized as reported on J. Org. Chem., 2000, 65(4), 1200, which is incorporated herein by reference in its entirety) and triethylamine (385 uL, 2.76 mmol) in dry DCM (2 mL) and dry DMF (2 mL). 4-Dimethylaminopyridine (34 mg, 0.28 mmol) and dry pyridine (1.5 mL) were added, and the reaction mixture was stirred overnight at r.t. The reaction mixture was extracted with DCM/H2O, and the organic phase was washed with brine, dried over sodium sulphate, filtered and evaporated to dryness. The residue was purified by gradient flash chromatography (eluent DCM to DCM/methanol 97/3 v/v) affording the title compound which was further purified by preparative HPLC to obtain 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid 2-acetylamino-1-(acetylaminomethyl)ethyl ester (105 mg, 24% yield) as a white solid.

reactant | 1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid | 0.92 mmol, 0.30 g | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C1(CC1)C(=O)O)F | C16H11Cl2FO2
reactant | oxalyl chloride | 0.92 mmol, 78 uL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.46 mmol, 39 uL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(3-acetylamino-2-hydroxypropyl)acetamide | C(C)(=O)NCC(CNC(C)=O)O | C7H14N2O3
reactant | triethylamine | 2.76 mmol, 385 uL | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | 4-Dimethylaminopyridine | 0.28 mmol, 34 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid 2-acetylamino-1-(acetylaminomethyl)-ethyl ester | C(C)(=O)NCC(CNC(C)=O)OC(=O)C1(CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)F | C23H23Cl2FN2O4
